US07834063B2
4-[(3-Phenylpropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized according to Example 84B from 4-[2-propen-1-yl(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and bromobenzene: MS (El) m/z 386 (M+, 6%), 281 (84%), 197 (100%), 170 (76%).

reactant | 4-[2-propen-1-yl(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | C(C=C)N(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C13H10F6N2
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
product | 4-[(3-Phenylpropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | C1(=CC=CC=C1)CCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C19H16F6N2
